US04146730
100 g. of an acid mixture [(composition: 54% by weight of glutaric acid; 25% by weight of succinic acid; and 21% by weight of adipic acid; each percentage being based on the mixture) obtained by the following process: subjecting cyclohexanol and cyclohexanone to two-stage oxidation in the presence of ammonium metavanadate and copper, using nitric acid as a solvent, at 60° to 80° C. in the first stage and at 100° to 110° C. in the second stage under a pressure of 2 to 10 atm. to produce adipic acid; separating the produced adipic acid after it is crystallized out; removing the remaining catalysts out of the mother liquor; and then distilling off the nitric acid] and 80 g. of urea were dissolved in 250 g. of water at 60° C. and subsequently cooled to and allowed to stand at 15° C. for 50 minutes to deposit a urea-glutaric acid adduct. The urea-glutaric acid adduct was separated by filtration and 90 g. of urea-glutaric acid adduct (including 46 g. of glutaric acid) was obtained. The obtained urea-glutaric acid was dissolved in 370 g. of water at 35° C. and treated with DOWEX 50WX-4 as used in Example 1 to remove urea. Almost all of water was removed from the solution under reduced pressure and the solution was cooled to and allowed to stand at 20° C. to deposit glutaric acid. 45 g. of glutaric acid having a purity of 98.7% was obtained by filtration.

reactant | urea glutaric acid | NC(=O)N.C(CCCC(=O)O)(=O)O
solvent | water | O | H2O
product | glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
